US08236963B2
Intermediate 2: methyl (2Z)-cyano(5-methoxy-2-oxo-1,2-dihydro-3H-indol-3-ylidene)acetate; (cf. Schemes 1, 2, compound VII)
Following the general method as outlined for Intermediate 1, starting from 5-methoxy-1H-indole-2,3-dione and methyl cyanoacetate, the title compound was isolated, after evaporation, as a dark purple solid in 88% yield. This was a 4.5:1 mixture of geometric isomers (99% purity by HPLC).

reactant | 5-methoxy-1H-indole-2,3-dione | COC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO3
reactant | methyl cyanoacetate | C(#N)CC(=O)OC | C4H5NO2
product | methyl (2Z)-cyano(5-methoxy-2-oxo-1,2-dihydro-3H-indol-3-ylidene)acetate | 88% yield | C(#N)/C(/C(=O)OC)=C\1/C(NC2=CC=C(C=C12)OC)=O | C13H10N2O4
